US05486466
To a suspension of 23.0 g of lithium 2,2-diphenyl-1,3-benzodioxole-5-carboxylate in 200 ml of dimethylformamide were added 27.0 g of O-benzotriazol-1-yl-N,N,N',N'-tetramethyluronium-hexafluorophosphate. The mixture was stirred at 20° C. for 2 hours, then 25 ml of methylamine were added, and stirring was continued for another 2 hours. The mixture was partitioned between ethyl acetate and water, the organic layer was washed successively with 2N potassium hydrogensulfate solution, saturated sodium carbonate solution and brine, and dried over magnesium sulfate. The solvent was evaporated in vacuo, and the solid residue was crystallized from ethanol to give 15.6 g of N-methyl-2,2-diphenyl-1,3-benzodioxole-5-carboxamide, m.p. 144°-145° C.

reactant | lithium 2,2-diphenyl-1,3-benzodioxole-5-carboxylate | 23.0 g | C1(=CC=CC=C1)C1(OC2=C(O1)C=CC(=C2)C(=O)[O-])C2=CC=CC=C2.[Li+]
reactant | O-benzotriazol-1-yl-N,N,N',N'-tetramethyluronium hexafluorophosphate | 27.0 g | N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
reactant | methylamine | 25 ml | CN | CH5N
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | N-methyl-2,2-diphenyl-1,3-benzodioxole-5-carboxamide | 15.6 g | CNC(=O)C1=CC2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C21H17NO3
